US08076329B2
Following the procedure described in example 43§C, but starting from 1-{3-[(4′-bromobiphenyl-4-yl)oxy]propyl}piperidine (0.75 g), 1-prop-2-yn-1-ylpiperidine (320 mg), triethylamine (20 mL), cuprous iodide (4.2 mg), triphenylphosphine (20 mg) and bis(triphenylphosphinepalladiumdichloride) affords 179 mg of 1-(3-{[4′-(3-piperidinoprop-1-yn-1-yl)biphenyl-4-yl]oxy}propyl)piperidine which oxalate melts at 195° C.

reactant | 1-{3-[(4′-bromobiphenyl-4-yl)oxy]propyl}piperidine | 0.75 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C20H24BrNO
reactant | 1-prop-2-yn-1-ylpiperidine | 320 mg | C(C#C)N1CCCCC1 | C8H13N
reactant | triphenylphosphine | 20 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
product | 1-(3-{[4′-(3-piperidinoprop-1-yn-1-yl)biphenyl-4-yl]oxy}propyl)piperidine | 179 mg | N1(CCCCC1)CC#CC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C28H36N2O
